US07384951B2
a) 8-Fluoro-4-methyl quinoline
To a solution of 2-fluoroaniline (25 ml) in ethanol (185 ml) was added concentrated hydrochloric acid (21 ml), iron (III) chloride hexahydrate (111 g) and zinc (II) chloride (4.1 g) and the resulting mixture was heated to 60° C. Methyl vinyl ketone (25 ml) was added dropwise over 45 min. then the mixture was refluxed for 2 hrs. The reaction mixture was allowed to cool then evaporated under reduced pressure. The resulting oil was basified to pH 12 with 2M sodium hydroxide solution, filtered through arbocel and then the aqueous was extracted with ethyl acetate (×2). The combined organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by column chromatography over silica, eluting with i-hexane/diethyl ether (3:1) followed by i-hexane/diethyl ether (2:1) to give the sub-title compound as a solid (8.25 g).

reactant | 2-fluoroaniline | 25 ml | FC1=C(N)C=CC=C1 | C6H6FN
reactant | hydrochloric acid | 21 ml | Cl | ClH
reactant | Methyl vinyl ketone | 25 ml | C(=C)C(=O)C | C4H6O
solvent | ethanol | 185 ml | C(C)O | C2H6O
catalyst | iron (III) chloride hexahydrate | 111 g | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
catalyst | zinc (II) chloride | 4.1 g | [Cl-].[Zn+2].[Cl-]
product | 8-Fluoro-4-methyl quinoline | 8.25 g | FC=1C=CC=C2C(=CC=NC12)C | C10H8FN
